US07407964B2
(S)-1-[2-(Diethoxyphosphorylmethyl)benzoyl]-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester
A mixture of (S)-1-(2-bromomethyl-benzoyl)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester (898 mg, 2.4 mmol) and triethylphosphite (432 mg, 2.4 mmol) was heated at 70° C. for 4 h. After cooling, the residue was purified by flash chromatography (ethyl acetate) to afford the title compound as a clear viscous oil (872 mg, 84%): 1H NMR (400 MHz, CDCl3) δ 1.17 (3H, t, J 7.0 Hz), 1.26 (3H, t, J 7.0 Hz), 1.53 (9H, s), 2.07-2.14 (1H, m), 2.43-2.69 (3H, m), 3.12 (1H, dd, J 22.4, 15.0 Hz), 3.62 (1H, dd, J 22.1, 15.0 Hz), 3.84-4.06 (4H, m), 4.87 (1H, dd, J 8.9, 4.8 Hz), 7.31-7.46 (4H, m).

reactant | (S)-1-(2-bromomethyl-benzoyl)-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester | 2.4 mmol, 898 mg | C(C)(C)(C)OC(=O)[C@H]1N(C(CC1)=O)C(C1=C(C=CC=C1)CBr)=O | C17H20BrNO4
reactant | triethylphosphite | 2.4 mmol, 432 mg | C(C)OP(OCC)OCC | C6H15O3P
product | (S)-1-[2-(Diethoxyphosphorylmethyl)benzoyl]-5-oxo-pyrrolidine-2-carboxylic acid tert-butyl ester | 872 mg, 84% | C(C)(C)(C)OC(=O)[C@H]1N(C(CC1)=O)C(C1=C(C=CC=C1)CP(=O)(OCC)OCC)=O | C21H30NO7P
